US04439436
To a stirred mixture of 12.8 g (0.049 mole) of ethyl 8-hydroxy-1,3-dioxolo[4,5-g]quinoline-7-carboxylate and 13.5 g (0.098 mole) of potassium carbonate in 500 ml of dimethylformamide was added 11.7 g (0.059 mole) of O-(2,4-dinitrophenyl)hydroxylamine. The reaction mixture was stirred overnight at room temperature. An additional 5.0 g of O-(2,4-dinitrophenyl)hydroxylamine and 300 ml of dimethylformamide were then added and stirring was continued again overnight. The solvent was removed in vacuo, the residue stirred in 500 ml of water, and the product was collected by filtration and recrystallized from dimethylformamide to give 7.6 g of ethyl 5-amino-5,8-dihydro-8-oxo-1,3-dioxolo[4,5-g]quinoline-7-carboxylate, pale orange crystals, m.p. 251°-253° C.

reactant | ethyl 8-hydroxy-1,3-dioxolo[4,5-g]quinoline-7-carboxylate | 0.049 mole, 12.8 g | OC1=C(C=NC=2C=C3C(=CC12)OCO3)C(=O)OCC | C13H11NO5
reactant | potassium carbonate | 0.098 mole, 13.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | O-(2,4-dinitrophenyl)hydroxylamine | 0.059 mole, 11.7 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])ON | C6H5N3O5
reactant | O-(2,4-dinitrophenyl)hydroxylamine | 5.0 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])ON | C6H5N3O5
solvent | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | ethyl 5-amino-5,8-dihydro-8-oxo-1,3-dioxolo[4,5-g]quinoline-7-carboxylate | 7.6 g | NN1C=C(C(C=2C=C3C(=CC12)OCO3)=O)C(=O)OCC | C13H12N2O5
